US04146624
2,8-Bis(4-chlorobutyryl)dibenzofuran
To a solution of 30 g (0.18 mole) of dibenzofuran and 62.7 g (0.44 mole) of 4-chlorobutyryl chloride in 1.0 l. of dry methylene chloride previously cooled to -10° C. was added portionwise 49.9 g (0.37 mole) of aluminum chloride with stirring. When the addition was complete the reaction mixture was heated at reflux for 2 hours then stirred at room temperature for an additional 12 hours. The reaction mixture was decomposed with ice water/HCl to give the desired product which was recrystallized from isopropyl alcohol. M.P. 102°-104° C., λmaxCHCl3 252, Elcm1% 1790.

reactant | dibenzofuran | 0.18 mole, 30 g | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | 4-chlorobutyryl chloride | 0.44 mole, 62.7 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | aluminum chloride | 0.37 mole, 49.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,8-Bis(4-chlorobutyryl)dibenzofuran | ClCCCC(=O)C1=CC2=C(OC3=C2C=C(C=C3)C(CCCCl)=O)C=C1 | C20H18Cl2O3
